US05612371
Example 10: Preparation of ethyl N-(E)-[1-oxo-2-(pivaloylthiomethyl)-3-phenylpropenyl]-β-alaninate
The (E)-2-pivaloylthiomethyl-3-phenylpropenoic acid described in Example 8 (step B) is coupled with ethyl β-alaninate according to the experimental procedure described in Example 1 (step D). Yield: 73% (after flash chromatography, eluent: ether/petroleum ether 55/45)-oil IR: 3300, 1710, 1650, 1620 cm-1 1H NMR (CDCl3): 7.20 (s, 5H); 6.75 (s, 1H); 6.0 (broad t, 1H); 3.95 (q, 2H, J=7.5 Hz); 3.80 (s, 2H); 3.40 (q app., 2H, J. app=6.40 Hz); 2.35 (t, 2H, J=5.9 Hz); 1.30 to 0.95 (m, 12H). Microanalysis: C20H27NO4S Calc. % C=63.63 H=7.21 N=3.71 Found. % C=63.35 H=7.16 N=3.52

reactant | (E)-2-pivaloylthiomethyl-3-phenylpropenoic acid | C(C(C)(C)C)(=O)SC\C(\C(=O)O)=C\C1=CC=CC=C1 | C15H18O3S
reactant | ethyl β-alaninate | NCCC(=O)OCC | C5H11NO2
product | ethyl N-(E)-[1-oxo-2-(pivaloylthiomethyl)-3-phenylpropenyl]-β-alaninate | Yield: 73% | O=C(/C(=C\C1=CC=CC=C1)/CSC(C(C)(C)C)=O)NCCC(=O)OCC | C20H27NO4S
